US04270014
hydrogenating the endo dimer of cyclopentadiene containing a dispersed nickel hydrogenation catalyst to provide a crude endo-tetrahydrodicyclopentadiene derivative having a melting point of at least about 70° C,;

reactant | cyclopentadiene | C1=CC=CC1 | C5H6
catalyst | nickel | [Ni] | Ni
product | endo-tetrahydrodicyclopentadiene | C1CC2C3CCC(C3)C2C1 | C10H16
